US07851473B2
N-(4-Ethoxypyrimidin-5-yl)-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl (4-ethoxypyrimidin-5-yl)carbamate (315 mg, 1.00 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (245 mg, 1.00 mmol), diisopropylethylamine (0.174 ml, 1.00 mmol) and dimethylsulfoxide (5 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of ethyl acetate and hexane to obtain the desired product (177 mg, 43.2%) as a solid.

reactant | 2,2,2-trichloroethyl (4-ethoxypyrimidin-5-yl)carbamate | 1.00 mmol, 315 mg | C(C)OC1=NC=NC=C1NC(OCC(Cl)(Cl)Cl)=O | C9H10Cl3N3O3
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 1.00 mmol, 245 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 1.00 mmol, 0.174 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(4-Ethoxypyrimidin-5-yl)-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide | 177 mg, 43.2% | C(C)OC1=NC=NC=C1NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=CC=CC=C1 | C20H22N6O2S
